US04345084
To a solution of 2-acetyl-2-fluoro-6-(trimethylsilyl)-5-hexynoic acid ethyl ester (6.63 g) in ethanol (20 ml) was added 27 ml of 2.65 M sodium ethoxide/ethanol. After 18 hours, 7 ml of 4 N sodium hydroxide was added. After 6 hours, the solvent was removed by rotary evaporation and the residual materials partitioned between ethyl ether and dilute hydrochloric acid. The organic layer was dried (MgSO4) and the solvent removed by rotary evaporation to give an oil which was vacuum distilled to yield 3.2 g of 2-fluoro-5-hexynoic acid; b.p. 118°/14 mmHg.

reactant | 2-acetyl-2-fluoro-6-(trimethylsilyl)-5-hexynoic acid ethyl ester | 6.63 g | C(C)OC(C(CCC#C[Si](C)(C)C)(F)C(C)=O)=O | C13H21FO3Si
reactant | sodium ethoxide ethanol | 2.65 M, 27 ml | [O-]CC.[Na+].C(C)O
reactant | sodium hydroxide | 4 N, 7 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-fluoro-5-hexynoic acid | 3.2 g | FC(C(=O)O)CCC#C | C6H7FO2
